US07105530B2
3-(Bromomethyl)-2-methyl-6-nitro-2H-indazole (4.20 g, ˜14.9 mmol) in CH3CN (500 ml) and water (200 ml) was treated with NaOH to give pH˜11. The solution was stirred at rt for 2 days then conc. in vacuo and repeatedly extracted with dichloromethane and chloroform. The combined organic extracts were evaporated, and the crude product was purified by silica gel column chromatography to give (2-methyl-6-nitro-2H-indazol-3-yl)methanol (1.03 g, 33% TY). MS (ES+, m/z) 208.

reactant | 3-(Bromomethyl)-2-methyl-6-nitro-2H-indazole | ˜14.9 mmol, 4.20 g | BrCC=1N(N=C2C=C(C=CC12)[N+](=O)[O-])C | C9H8BrN3O2
reactant | NaOH | [OH-].[Na+]
solvent | CH3CN | 500 ml | CC#N | C2H3N
solvent | water | 200 ml | O | H2O
product | (2-methyl-6-nitro-2H-indazol-3-yl)methanol | 1.03 g, 33% | CN1N=C2C=C(C=CC2=C1CO)[N+](=O)[O-] | C9H9N3O3
